US04435403
A mixture of 1.0 g of beta-carboline-3-carboxamide and 3 ml of dimethyl-formamide-dimethylacetal is heated for 3 h at about 115° C. in an oil bath. After cooling, the crystals are collected on a glass frit and washed with 1 ml of dimethylformamide and then with 20 ml of ether. 1.2 g of N-[(dimethylamino)methylene]-beta-carboline-3-carboxamide with a m.p. of 307°-317° C. is obtained.

reactant | beta-carboline-3-carboxamide | 1.0 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)N | C12H9N3O
reactant | dimethyl-formamide-dimethylacetal | 3 ml | COC(N(C)C)OC | C5H13NO2
product | N-[(dimethylamino)methylene]-beta-carboline-3-carboxamide | 1.2 g | CN(C)C=NC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C15H14N4O
